US05360822
3'-Acetyl-4'-fluoromethanesulfonanilide (32 g) was dissolved in 250 ml of acetic acid, then 22.1 g of bromine was dropped thereinto gradually at room temperature and the mixture was made to react at room temperature for 3 hours. The reaction mixture was added to ice water and the mixture-was extracted with ethyl acetate. The extract was washed with aqueous solution of sodium bicarbonate, then with water, dried and the solvent was evaporated therefrom followed by crystallizing from diisopropyl ether to give 38 g of 3'-(2-bromoacetyl)-4'-fluoromethanesulfonanilide, m.p. 110°-113° C.

reactant | 3'-Acetyl-4'-fluoromethanesulfonanilide | 32 g | C(C)(=O)C=1C=C(NS(=O)(=O)C)C=CC1F | C9H10FNO3S
reactant | bromine | 22.1 g | BrBr | Br2
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 3'-(2-bromoacetyl)-4'-fluoromethanesulfonanilide | 38 g | BrCC(=O)C=1C=C(NS(=O)(=O)C)C=CC1F | C9H9BrFNO3S
